US04386211
N-[2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethyl]-N'-(4-methyl-2-thiazolyl)urea
To 3.40 g (13.9 mmole) of 4-[(2-aminoethyl)thiomethyl]-5-methylimidazole dihydrochloride stirred under flowing nitrogen in 100 ml of dry pyridine is added 1.27 g (ca. 27.9 mmole) of a 50 percent dispersion in oil of sodium hydride. After approximately 90 min. 24.3 g (13.1 mmole) of 2-carbethoxyamino-4-methylthiazole is added, and the resultant mixture is heated at reflux for 1 day. After cooling to room temperature, the mixture is filtered to remove insolubles, and the filtrate is concentrated at reduced pressure. The resultant gum is repeatedly dissolved in aqueous ethanol and dried in vacuo, triturated with pentane to remove mineral oil, and purified by column chromotography* on silica gel. Fractions containing the product are combined, partially concentrated, filtered and finally dried by concentration in vacuo, giving 2.40 g (7.2 mmole) of the desired product as an ethanol solvate. Structure assignment and solvation by one-half mole of ethanol per mole of product are supported by nmr.

reactant | 4-[(2-aminoethyl)thiomethyl]-5-methylimidazole dihydrochloride | 13.9 mmole, 3.40 g | Cl.Cl.NCCSCC=1N=CNC1C
reactant | sodium hydride | [H-].[Na+]
reactant | 2-carbethoxyamino-4-methylthiazole | 13.1 mmole, 24.3 g | C(=O)(OCC)NC=1SC=C(N1)C | C7H10N2O2S
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethyl]-N'-(4-methyl-2-thiazolyl)urea | 7.2 mmole, 2.40 g | CC1=C(N=CN1)CSCCNC(=O)NC=1SC=C(N1)C | C12H17N5OS2
